US06566387B1
The standard procedure was followed using N-(4-cyano-2-t-butyldimethylsilanoxyphenyl)-N′-(2-bromophenyl)carbodiimide (106 mg, 0.25 mmol), diisopropylethylamine (71 μL, 0.28 mmol), methyl pipecolinate hydro chloride (50 mg, 0.28 mmol) and TBAF (0.30 mL, 0.30 mmol) in THF (2.5 mL) and methanol (0.1 mL) to give 80 mg (75%) of 4-[[2-(2-bromophenyl)-1,5,6,7,8,8a-hexahydro-1-oxoimidazo[1,5-a]pyridin-3(2H)-ylidene]amino]-3-hydroxybenzonitrile as a tan powder. MS (EI) m/e 425 (100(M+)).

reactant | N-(4-cyano-2-t-butyldimethylsilanoxyphenyl)-N′-(2-bromophenyl)carbodiimide | 0.25 mmol, 106 mg | C(#N)C1=CC(=C(C=C1)N=C=NC1=C(C=CC=C1)Br)O[Si](C)(C)C(C)(C)C | C20H22BrN3OSi
reactant | diisopropylethylamine | 0.28 mmol, 71 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl pipecolinate hydro chloride | 0.28 mmol, 50 mg | Cl.N1C(C(=O)OC)CCCC1
reactant | TBAF | 0.30 mmol, 0.30 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.1 mL | CO | CH4O
product | 4-[[2-(2-bromophenyl)-1,5,6,7,8,8a-hexahydro-1-oxoimidazo[1,5-a]pyridin-3(2H)-ylidene]amino]-3-hydroxybenzonitrile | 80 mg, 75% | BrC1=C(C=CC=C1)N1C(N2C(CCCC2)C1=O)=NC1=C(C=C(C#N)C=C1)O | C20H17BrN4O2
